US05362744
(a) N-Cyclohexyl-2-dodecyl-2H-tetrazol-5-amine
A mixture of 2-dodecyl-N-phenyl-2H-tetrazol-5-amine (1.54 g, 0.00467 mol) and absolute ethanol (100 mL) was hydrogenated over 10% ruthenium on carbon (0.5 g) at 1100 psi and 100° C. for 10 hours. The mixture was allowed to cool to room temperature, and the catalyst was filtered off and washed with additional ethanol (200 mL). The filtrate and washings were combined and rotoevaporated to a glaze. The glaze was triturated with diethyl ether. The organic triturate was rotoevaporated to a solid, and the solid chromatographed on silica gel (50 g, 70-230 mesh) using PET ether-acetone (10:1, 7×50 mL) as eluent. Fractions containing title compound were rotoevaporated from dichloromethane to a white solid. The solid was dried in vacuo (25° C.), yield 1.30 g (83%), mp=51°-53° C.

reactant | 2-dodecyl-N-phenyl-2H-tetrazol-5-amine | 0.00467 mol, 1.54 g | C(CCCCCCCCCCC)N1N=C(N=N1)NC1=CC=CC=C1 | C19H31N5
catalyst | ruthenium on carbon | 0.5 g | [Ru] | Ru
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-Cyclohexyl-2-dodecyl-2H-tetrazol-5-amine | C1(CCCCC1)NC=1N=NN(N1)CCCCCCCCCCCC | C19H37N5
